US05883247
To a stirred suspension of 30 g (Z)-(RS)-(2-aminothiazol-4-yl)-[(tetrahydropyran-2-yloxyimino)]-acetic acid (80.5 mmol) and 90 mg 1,4-diazabicyclo[2.2.2]octane (DABCO) (0.80 mmol) in 300 ml dimethylacetamide was added under argon over 45 min 17 ml diethyl chlorothiophosphate (104.9 mmol). Stirring was continued at 0° C. for 1 h. The reaction was followed by HPLC. To the slightly turbid reaction mixture was added dropwise over 50 min 450 ml water. The precipitated product was filtered, washed with water and dissolved in dichloromethane. The aqueous layer was back-extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure until the product started to crystallize. To the residual solution was added dropwise over 30 min n-hexane. The resulting suspension was cooled to 2° C., stirred for 1 h and then filtered. The crystalline product was washed with n-hexane and dried to constant weight. (Z)-(RS)-(2-aminothiazol-4-yl)-[(tetrahydropyran-2-yloxyimino)]-acetic acid diethoxythio-phosphoryl ester was obtained as a white solid (28.01 g, yield=82%) and was stored under argon at -20° C. No further purification was necessary and the product was used as isolated for the next step.

reactant | (Z)-(RS)-(2-aminothiazol-4-yl)-[(tetrahydropyran-2-yloxyimino)]-acetic acid | 80.5 mmol, 30 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC1OCCCC1 | C10H13N3O4S
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.80 mmol, 90 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | diethyl chlorothiophosphate | 104.9 mmol, 17 ml | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
reactant | water | 450 ml | O | H2O
solvent | dimethylacetamide | 300 ml | CC(=O)N(C)C | C4H9NO
product | (Z)-(RS)-(2-aminothiazol-4-yl)-[(tetrahydropyran-2-yloxyimino)]-acetic acid diethoxythio-phosphoryl ester | C(C)OP(=S)(OCC)OC(\C(=N/OC1OCCCC1)\C=1N=C(SC1)N)=O | C14H22N3O6PS2
